US06465507B2
1-(2-Oxo-5-phenyl-1,2-dihydro-indol-3-ylidenemethyl)-2,5,6,7-tetrahydro-pyrrolo[3,4-c]pyridin-4-one
A mixture of 5-phenyl-1,3-dihydro-indol-2-one (41.8 mg, 0.2 mmol), 4-oxo-4,5,6,7-tetrahydro-2H-pyrrolo[3,4-c]pyridine-1-carbaldehyde (1 equivalent) and 0.1 mL of piperidine in ethanol (1 mL) was heated in a sealed tube at 80° C. for 3 hours. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give the title compound as a yellow solid.

reactant | 5-phenyl-1,3-dihydro-indol-2-one | 0.2 mmol, 41.8 mg | C1(=CC=CC=C1)C=1C=C2CC(NC2=CC1)=O | C14H11NO
reactant | 4-oxo-4,5,6,7-tetrahydro-2H-pyrrolo[3,4-c]pyridine-1-carbaldehyde | 1 equivalent | O=C1NCCC=2C1=CNC2C=O | C8H8N2O2
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 1-(2-Oxo-5-phenyl-1,2-dihydro-indol-3-ylidenemethyl)-2,5,6,7-tetrahydro-pyrrolo[3,4-c]pyridin-4-one | O=C1NC2=CC=C(C=C2C1=CC=1NC=C2C(NCCC21)=O)C2=CC=CC=C2 | C22H17N3O2
